US06544985B2
(5-(Isobutyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J36) (360 mg, 1.0 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K4) (302 mg, 1.0 mmol) according to the general procedure M. Obtained as a light brown foam (430 mg, 73%).

reactant | [2-amino-5-(isobutyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 360 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)N)=O | C17H26F3N3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 302 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (5-(Isobutyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C30H35F3N4O5
